US08119422B2
c) Synthesis of methyl 4-hydroxy-3-(2-methoxyethyl)-5-methylbenzoate
A solution of methyl 4-(tert-butyldimethylsilyloxy)-3-(2-hydroxyethyl)-5-methylbenzoate (48 mg, 0.148 mmol) in dichloromethane (3 mL) was treated with sodium bicarbonate (60 mg, 4 equivalents) and methyl triflate (68 uL, 4 equivalents). the reaction was stirred at room temperature for 16 h by which time TLC analysis indicated ˜50% conversion. The reaction was then diluted with ethyl acetate (20 mL) and filtered. The filtrate was evaporated to dryness. The residue was dissolved in THF (5 mL) and tetrabutylammonium fluoride (60 mg, 1.5 equivalents) was added. The reaction was stirred at room temperature. after 5 minutes, TLC analysis indicated complete conversion. The solvent was removed under educed pressure and the residue was dissolved in ethyl acetate (1 mL) and purified by preparative TLC on silica using 25% ethyl acetate/hexanes. Yield=13 mg (40%).

reactant | methyl 4-(tert-butyldimethylsilyloxy)-3-(2-hydroxyethyl)-5-methylbenzoate | 0.148 mmol, 48 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C(=O)OC)C=C1C)CCO | C17H28O4Si
reactant | sodium bicarbonate | 60 mg, 4 equivalents | C([O-])(O)=O.[Na+]
reactant | methyl triflate | 68 uL, 4 equivalents | O(S(=O)(=O)C(F)(F)F)C | C2H3F3O3S
reactant | tetrabutylammonium fluoride | 60 mg, 1.5 equivalents | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-hydroxy-3-(2-methoxyethyl)-5-methylbenzoate | OC1=C(C=C(C(=O)OC)C=C1C)CCOC | C12H16O4
